US06509503B1
Preparation of 3,5-Dichlorophenylhydrazine
A mixture of 1,3,5-trichlorobenzene (2.53 g), hydrazine hydrate (3.48 g, 5 molar equivalents) and pyridine (12 ml) was heated in an autoclave (purged with argon) for 6 hours at 180° C. The mixture was cooled, the excess hydrazine decanted and the organic phase evaporated in vacuo to give the title compound in 60% yield. It was shown that 65% of the starting material had been consumed, thus indicating that the reaction had occurred with high selectivity.

reactant | 1,3,5-trichlorobenzene | 2.53 g | ClC1=CC(=CC(=C1)Cl)Cl | C6H3Cl3
reactant | hydrazine hydrate | 5 molar, 3.48 g | O.NN
solvent | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
product | 3,5-Dichlorophenylhydrazine | 60% yield | ClC=1C=C(C=C(C1)Cl)NN | C6H6Cl2N2
